US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (500 mg, 1.05 mmol), 2-benzofuranboronic acid (340 mg, 2.10 mmol) and 65 mg of tetrakis(triphenylphosphine)palladium(0) in 70 mL of ethylene glycol dimethyl ether and 40 mL of saturated aqueous sodium bicarbonate is heated at reflux for 2.5 hours. An additional 50 mg of tetrakis(triphenylphosphine)palladium(0) is added and the reaction is heated at reflux for 1 hour. The reaction mixture is cooled to room temperature and partitioned between water and ethyl acetate. The organic layer is washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 2:1 hexane:ethyl acetate. The fractions containing product are combined and concentrated in vacuo. The residue is washed with diethyl ether to provide 160 mg of 2-(1-benzofuran-2-yl)-7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile as yellow crystals, mp 281-282° C.; 1H NMR (DMSO-d6) δ 3.87 (s, 3H), 7.29-7.45 (m, 3H), 7.61 (s, 1H), 7.69-7.73 (m, 2H), 7.81 (s, 1H), 8.02 (s, 1H), 8.65 (s, 1H), 9.82 (s, 1H); MS 464.2, 465.9 (M−H)−.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 1.05 mmol, 500 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | 2-benzofuranboronic acid | 2.10 mmol, 340 mg | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
solvent | ethylene glycol dimethyl ether | 70 mL | COCCOC | C4H10O2
solvent | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(1-benzofuran-2-yl)-7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 160 mg | O1C(=CC2=C1C=CC=C2)C2=CC1=NC=C(C(=C1S2)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N | C23H13Cl2N3O2S
